US06344459B1
6-Amino-4-([3-bromophenyl]amino)benzothieno [3,2-d]pyrimidine:
To a solution of 6-amino-4-[(3-bromophenyl)amino]benzothieno-quinazoline (130 mg, 0.35 mmol), acrylic acid (0.05 mL, 0.73 mmol), and triethylamine (0.1 mL, 0.72 mmol) in DMF (3 mL) stirred under N2 at 0° C. was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (144 mg, 0.75 mmol). The reaction gradually warmed up to 25° C. and was quenched with water after 20 hours. The formed yellow solid was collected and purified by sonication with acetone to give the desired product (40 mg, 27%), mp 216.4-217.2° C.

reactant | 6-amino-4-[(3-bromophenyl)amino]benzothieno-quinazoline | 0.35 mmol, 130 mg | NC=1C=C2C(=NC=NC2=C2C1SC1=C2C=CC=C1)NC1=CC(=CC=C1)Br | C20H13BrN4S
reactant | acrylic acid | 0.73 mmol, 0.05 mL | C(C=C)(=O)O | C3H4O2
reactant | triethylamine | 0.72 mmol, 0.1 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.75 mmol, 144 mg | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 6-Amino-4-([3-bromophenyl]amino)benzothieno [3,2-d]pyrimidine | 40 mg, 27% | NC1=CC=CC2=C1SC1=C2N=CN=C1NC1=CC(=CC=C1)Br | C16H11BrN4S
